US07151109B2
Preparation of 2-ethyl-N-(3-fluoropropyl)-N-(2-methoxyethyl)pyrazolo[1,5-a]pyridin-3-amine
A 0° C. solution of N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-(3-fluoropropyl)-2-methoxyacetamide (1.62 g, 5.5 mmol) in THF (25 mL) was treated with borane dimethyl sulfide complex (1.1 mL, 11.0 mmol). The reaction was stirred at room temperature for 5.5 hours. The reaction was quenched with 2N HCl then made basic with 4N NaOH. The mixture was extracted twice with ethyl acetate. The combined organic layers was washed with brine, dried over MgSO4 and concentrated in vacuo to give a yellow oil which was subjected to column chromatography (40% ethyl acetate/hexane) to give 0.313 g (20%) of yellow oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 8.99 (d, J=7.2 Hz, 1H), 7.68 (d, J=8.8 Hz, 1H), 7.41–7.37 (m, 1H), 7.10–7.07 (m, 1H), 4.62 (dt, J=47.2, 5.7 Hz, 2H), 3.39–3.29 (m, 9H), 3.05 (q, J=7.5 Hz, 2H), 1.86–1.73 (m, 2H), 1.35 (t, J=7.5 Hz, 3H); MS (EI) m/z 280.24 (M++H).

reactant | N-(2-ethylpyrazolo[1,5-a]pyridin-3-yl)-N-(3-fluoropropyl)-2-methoxyacetamide | 5.5 mmol, 1.62 g | C(C)C1=NN2C(C=CC=C2)=C1N(C(COC)=O)CCCF | C15H20FN3O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-ethyl-N-(3-fluoropropyl)-N-(2-methoxyethyl)pyrazolo[1,5-a]pyridin-3-amine | C(C)C1=NN2C(C=CC=C2)=C1N(CCOC)CCCF | C15H22FN3O
